* block symbol definitions
.subckt unit in1 in2 Vcc out1 out2
XX3 0 in1 Vcc N002 inverter
XX6 0 N001 Vcc out2 inverter
XX12 0 N002 Vcc out1 inverter
XX17 0 in2 Vcc N001 inverter
XX10 0 N002 Vcc N001 inverter
XX19 0 N001 Vcc N002 inverter
.ends unit
