.subckt inverter Gnda In Vcc Out
M1 Out In Gnda Gnda nch l=2u w=6u
M2 Out In Vcc Vcc pch l=2u w=18u
C1 Out 0 100f
* .include "./models/mos_tt.lib"
.ends inverter
